US08202857B2
(S)-1-((S)-1-(4-(1-cyclopropyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-4-(2-hydroxy-2-methylpropyl)-4-phenyl-1,3-diazepan-2-one
The title compound was prepared from (S)-4-(2-hydroxy-2-methylpropyl)-4-phenyl-1-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-diazepan-2-one and 5-bromo-1-cyclopropylpyridin-2(1H)-one following a procedure analogous to that described in Example 11 Step 2. LC-MS Method 1 tR=1.66 min; m/z=500 (M+1). 1H NMR (CD3OD) δ 7.78 (s, 1H), 7.56 (d, 3H), 7.37 (m, 5H), 7.27 (t, 1H), 7.17 (d, 2H), 6.61 (d, 1H), 5.46 (q, 1H), 3.37 (m, 1H), 2.92 (m, 1H), 2.74 (dt, 1H), 2.39 (d, 1H), 1.53 (d, 3H), 1.16 (s, 3H), 0.58 (s, 3H).

reactant | (S)-4-(2-hydroxy-2-methylpropyl)-4-phenyl-1-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-diazepan-2-one | OC(C[C@]1(NC(N(CCC1)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C1=CC=CC=C1)(C)C | C29H41BN2O4
reactant | 5-bromo-1-cyclopropylpyridin-2(1H)-one | BrC=1C=CC(N(C1)C1CC1)=O | C8H8BrNO
product | (S)-1-((S)-1-(4-(1-cyclopropyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-4-(2-hydroxy-2-methylpropyl)-4-phenyl-1,3-diazepan-2-one | C1(CC1)N1C=C(C=CC1=O)C1=CC=C(C=C1)[C@H](C)N1C(N[C@](CCC1)(C1=CC=CC=C1)CC(C)(C)O)=O | C31H37N3O3
